### PR TITLE
Stability proofs of sort

### PR DESCRIPTION
**Pull request by pi8027**
##### Motivation for this change

This PR adds the following lemmas which state the stability of `path.merge` and `path.sort` in various ways.

```coq
sorted_merge
     : forall (T : Type) (leT : rel T),
       transitive leT ->
       forall s t : seq T, sorted leT (s ++ t) -> merge leT s t = s ++ t
merge_stable_path
     : forall (T : Type) (leT leT' : rel T),
       total leT ->
       forall (x : T) (s1 s2 : seq T),
       all (fun y : T => all (leT' y) s2) s1 ->
       path [rel x0 y | leT x0 y && (leT y x0 ==> leT' x0 y)] x s1 ->
       path [rel x0 y | leT x0 y && (leT y x0 ==> leT' x0 y)] x s2 ->
       path [rel x0 y | leT x0 y && (leT y x0 ==> leT' x0 y)] x
         (merge leT s1 s2)
merge_stable_sorted
     : forall (T : Type) (leT leT' : rel T),
       total leT ->
       forall s1 s2 : seq T,
       all (fun x : T => all (leT' x) s2) s1 ->
       sorted [rel x y | leT x y && (leT y x ==> leT' x y)] s1 ->
       sorted [rel x y | leT x y && (leT y x ==> leT' x y)] s2 ->
       sorted [rel x y | leT x y && (leT y x ==> leT' x y)] (merge leT s1 s2)
sorted_sort
     : forall (T : Type) (leT : rel T),
       transitive leT -> forall s : seq T, sorted leT s -> sort leT s = s
sort_stable
     : forall (T : Type) (leT leT' : rel T),
       total leT -> transitive leT' ->
       forall s : seq T,
       sorted leT' s ->
       sorted [rel x y | leT x y && (leT y x ==> leT' x y)] (sort leT s)
filter_sort
     : forall (T : Type) (leT : rel T),
       total leT -> transitive leT ->
       forall (p : pred T) (s : seq T),
       [seq x <- sort leT s | p x] = sort leT [seq x <- s | p x]
mask_sort
     : forall (T : Type) (leT : rel T),
       total leT -> transitive leT ->
       forall (s : seq T) (m : bitseq),
       {m_s : bitseq | mask m_s (sort leT s) = sort leT (mask m s)}
sorted_mask_sort
     : forall (T : Type) (leT : rel T),
       total leT -> transitive leT ->
       forall (s : seq T) (m : bitseq),
       sorted leT (mask m s) ->
       {m_s : bitseq | mask m_s (sort leT s) = mask m s}
subseq_sort
     : forall (T : eqType) (leT : rel T),
       total leT -> transitive leT -> {homo sort leT : t s / subseq t s}
sorted_subseq_sort
     : forall (T : eqType) (leT : rel T),
       total leT -> transitive leT ->
       forall t s : seq T, subseq t s -> sorted leT t -> subseq t (sort leT s)
mem2_sort
     : forall (T : eqType) (leT : rel T),
       total leT -> transitive leT ->
       forall (s : seq T) (x y : T),
       leT x y -> mem2 s x y -> mem2 (sort leT s) x y
```

Closes: #328

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`
- [x] added corresponding documentation in the headers

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

File: mathcomp/ssreflect/path.v [hunk 1]
```diff
@@ -338,6 +358,16 @@ move=> p2'x p2'y; rewrite catA !mem2_cat !mem_cat.
 by rewrite (negPf p2'x) (negPf p2'y) (mem2lf p2'x) andbF !orbF.
 Qed.
 
+Lemma mem2E s x y :
```
Comment (anton-trunov) [inline mathcomp/ssreflect/path.v]: Just a comment. Here is an alternative proof of `mem2E` lemma that does not use nested induction:

```coq
Lemma mem2E s x y :
  mem2 s x y = subseq (if x == y then [:: x] else [:: x; y]) s.
Proof.
elim: s => [| h s]; first by case: ifP.
rewrite mem2_cons => ->.
do ! rewrite !(fun_if subseq) !if_arg !sub1seq /= ?inE.
by case: eqVneq => [-> |]; case: eqVneq.
Qed.
```

Please feel free to use it or completely ignore it.

File: mathcomp/solvable/abelian.v [hunk 2]
```diff
@@ -1766,7 +1766,7 @@ case/predU1P: b_y => [-> // | b'_y].
 have:= abelian_type_dvdn_sorted G; rewrite -def_t def_b.
 case/splitPr: b'_y => b1 b2; rewrite -cat_rcons rcons_cat map_cat !map_rcons.
 rewrite headI /= cat_path -(last_cons 2) -headI last_rcons.
-case/andP=> _ /order_path_min min_y.
+case/andP=> _ /(@order_path_min nat) min_y.
```
Comment (anton-trunov) [inline mathcomp/solvable/abelian.v]:
```suggestion
case/andP=> _ /(order_path_min _) min_y.
```
For uniformity with the rest of the patch.

Comment (ggonthier) [reply mathcomp/solvable/abelian.v]: Actually the proper fix is to make the implicits of `order_path_min` maximal, and _not_ modifying `abelian.v`, as I commented in #328

**Comment by CohenCyril** [comment]
Great PR, which I do not fully read yet... Just one bureaucratic comment so far:

> * [ ]  merge dependency: #328

Since #328 is not going to be merge without #358, I prefer that this PR substitutes #328 completely.

File: mathcomp/ssreflect/path.v (hunk 1 above)
Comment (pi8027) [reply mathcomp/ssreflect/path.v]: Thank you so much! I have replaced the proof.

Comment (anton-trunov) [reply mathcomp/ssreflect/path.v]: I'm glad you liked it! Let me thank you for this great PR!

File: mathcomp/ssreflect/path.v [hunk 3]
```diff
@@ -586,6 +763,190 @@ Proof. by elim: n i => // [[|n] //= IHn] i; rewrite IHn leqW. Qed.
...
+Qed.
+
+End Stability.
+
+Section Stability_on_eqType.
+
+Variables (T : eqType) (leT : rel T).
+Variables (leT_total : total leT) (leT_tr : transitive leT).
+
+Lemma subseq_sort t s : subseq t s -> sorted leT t -> subseq t (sort leT s).
```
Comment (pi8027) [inline mathcomp/ssreflect/path.v]: Now I have a better conjecture to replace this but feel difficulties to prove it. :(
```coq
Conjecture subseq_sort : {homo sort leT : t s / subseq t s}.
```

**Comment by pi8027** [comment]
@CohenCyril OK. I did it. I may need help on diffs coming from #328.

**Comment by pi8027** [comment]
I have proved the following lemmas. `mask_sort` and `subseq_sort` can be derived as their corollaries.
```
sorted_sort
     : forall (T : Type) (leT : rel T),
       transitive leT -> forall s : seq T, sorted leT s -> sort leT s = s
mask_sort'
     : forall (T : Type) (leT : rel T), total leT -> transitive leT ->
       forall (s : seq T) (m : bitseq),
       {m_s : bitseq | mask m_s (sort leT s) = sort leT (mask m s)}
subseq_sort'
     : forall (T : eqType) (leT : rel T),
       total leT -> transitive leT -> {homo sort leT : t s / subseq t s}
```

File: mathcomp/ssreflect/path.v [hunk 4]
```diff
@@ -452,124 +693,94 @@ Qed.
...
+Qed.
+
+Lemma size_sort (T : Type) (leT : rel T) s : size (sort leT s) = size s.
+Proof.
+case: s => [|x s] //; have [s1 pp qq] := perm_iota_sort leT x (x :: s).
+by rewrite qq size_map (perm_size pp) size_iota.
+Qed.
+
+Section EqHomoSortSeq.
+Variables (T : Type) (T' : eqType) (f : T' -> T) (leT' : rel T') (leT : rel T).
```
Comment (pi8027) [inline mathcomp/ssreflect/path.v]: Section variables of `EqHomoPath` and `EqHomoSortSeq` are different but can be the same and have more uniformity. @CohenCyril Unless you did it intentionally, I would like to change it.

File: mathcomp/ssreflect/path.v [hunk 5]
```diff
@@ -452,124 +693,94 @@ Qed.
...
+Lemma mono_sorted_in s : {in s &, {mono f : x y / leT' x y >-> leT x y}} ->
+  sorted leT (map f s) = sorted leT' s.
+Proof. by case: s => // x s /mono_path_in /= ->. Qed.
+
+End EqHomoSortSeq.
+
+Arguments homo_sorted_in {T T' f leT' leT}.
+Arguments mono_sorted_in {T T' f leT' leT}.
+
+Lemma sort_map_in (T T' : eqType) (f : T' -> T) (leT' : rel T') (leT : rel T)
```
Comment (pi8027) [inline mathcomp/ssreflect/path.v]: @CohenCyril Can you manage to prove this with fewer assumptions as I suggested in https://github.com/math-comp/math-comp/pull/328#discussion_r293323946?

File: mathcomp/ssreflect/path.v (hunk 4 above)
Comment (CohenCyril) [reply mathcomp/ssreflect/path.v]: @pi8027 yes please go ahead and let `f` be a section variable everywhere.

File: mathcomp/solvable/abelian.v (hunk 2 above)
Comment (pi8027) [reply mathcomp/solvable/abelian.v]: I don't see the proper fix of this issue as @anton-trunov mentioned in https://github.com/math-comp/math-comp/pull/328#discussion_r293436129.

**Comment by pi8027** [comment]
I have finished all the improvements I could do now except for documentation.

File: mathcomp/solvable/abelian.v (hunk 2 above)
Comment (ggonthier) [reply mathcomp/solvable/abelian.v]: Indeed, you need to make the implicits of `order_path_min` both maximal _and prenex_, i.e., either make `transitive leT` an explicit rather than a section hypothesis (use `Implicit Type` if you don't want to repeat the statement/intro everywhere), or also make it a maximal implicit (which I don't recommend). The reason is that Coq doesn't alway insert maximal implicits; it requires all previous non-implicit arguments to be present.
   An alternative solution would be to declare the section variable `T` as a `nonPropType`.
I'll put a pointer in #328.

**Comment by amahboubi** [comment]
Hi @pi8027 , @CohenCyril, could you clarify the status of this PR today? Thanks in advance!

**Comment by pi8027** [comment]
@amahboubi @CohenCyril Currently, `sort_map_in` is not general enough and some hypothesis of it could be dropped; however, a generalized version seems to be difficult to prove. (see: https://github.com/math-comp/math-comp/pull/358#discussion_r294975535)
So I'd like to drop `sort_map_in` from this PR and add it later, if @CohenCyril cannot generalize it before long.

**Comment by amahboubi** [comment]
Hello @pi8027, thanks for the feedback. Your plan looks sensible, please go ahead. However, it seems to me that your remark is orthogonal to CI failure, isn't it?

**Comment by pi8027** [comment]
Hello @amahboubi, I have removed `sort_map_in` and updated documentation. There is no CI failure now. So this PR is ready for review.

**Comment by pi8027** [comment]
Lemmas `mask_sort'` and `subseq_sort'` may able to have better names.

**Comment by amahboubi** [comment]
@pi8027 sorry for the lag: in the end do you want to change the names of  `mask_sort'` and `subseq_sort'` before we merge? @CohenCyril @anton-trunov @ggonthier do you see anything blocking the merge of this PR?

**Comment by pi8027** [comment]
@amahboubi I think `sorted_mask_sort` and `sorted_subseq_sort` would be better (but a bit redundant) because they are corollaries of `mask_sort` and `subseq_sort` where the case of masked sequence and subsequence are sorted. If no other names are suggested, I will rename them and rebase again.

**Comment by pi8027** [comment]
Renamed & ready to merge.
